US09403798B2
2-(Trifluoromethyl)benzofuran-5-carbaldehyde
To a tetrahydrofuran solution (12 mL) of 5-bromo-2(trifluoromethyl)benzofuran (587 mg, 2.21 mmol), n-butyl lithium (hexane solution, 1.59 mol/L) (1.70 mL, 2.66 mmol) was added at −78° C. and the resultant solution was stirred for 40 minutes. To the reaction solution, N,N-dimethylformamide (257 μL, 3.32 mmol) was added and the resultant mixture was stirred for 3 hours while the temperature of the mixture was raised to room temperature. After completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction with ethyl acetate from the resultant mixture was performed. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (180 mg, yield 39%).

reactant | 5-bromo-2(trifluoromethyl)benzofuran | 2.21 mmol, 587 mg | BrC=1C=CC2=C(C=C(O2)C(F)(F)F)C1 | C9H4BrF3O
reactant | n-butyl lithium | 2.66 mmol, 1.59 mol/L, 1.70 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 3.32 mmol, 257 μL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 2-(Trifluoromethyl)benzofuran-5-carbaldehyde | 180 mg, yield 39% | FC(C=1OC2=C(C1)C=C(C=C2)C=O)(F)F | C10H5F3O2
